US08729061B2
Step C6: (2S,4R)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxylic acid
Under an atmosphere of argon, (2S,4R)-methyl 1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxylate (1.5 g, 3.11 mmol, Eq: 1.00) was combined with THF (20 ml) to give a light yellow solution. Then lithium hydroxide monohydrate (196 mg, 4.66 mmol, Eq: 1.5) in 4 ml water and 4 ml methanol was added. The reaction was stirred for 2 h at RT. The solvents were evaporated. The reaction was extracted with ethyl acetate, H2O and brine. The organic layers were dried over Na2SO4 and concentrated in vacuo. The title compound was obtained as a white foam (1.52 g, 97.1%, MS (m/e)=468.2 [M+H+]; MS (m/e)=466.1 [M−H+]).

reactant | (2S,4R)-methyl 1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxylate | 3.11 mmol, 1.5 g | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=CC=C1)Cl)C(=O)OC | C22H21Cl2NO5S
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | lithium hydroxide monohydrate | 4.66 mmol, 196 mg | O.[OH-].[Li+]
solvent | water | 4 ml | O | H2O
solvent | methanol | 4 ml | CO | CH4O
product | (2S,4R)-1-(1-(4-chlorophenyl)cyclopropanecarbonyl)-4-(2-chlorophenylsulfonyl)pyrrolidine-2-carboxylic acid | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1[C@@H](C[C@H](C1)S(=O)(=O)C1=C(C=CC=C1)Cl)C(=O)O | C21H19Cl2NO5S
